US08562945B2
A solution of 2-4(9H-fluoren-9-yl)methoxy)carbonylamino)-6-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)hexanoic acid (190 mg, 0.173 mmol) and piperidine (0.50 mL) in DMF (0.50 mL) was stirred at room temperature for 1 hrs. The solvent was evaporated under reduced pressure to give a crude product. The crude product was purified by Biotage SP4 with a gradient method of 5-50% methanol in DCM to give (S)-2-amino-6-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)hexanoic acid (0.120 g, 79%). 1H NMR (400 MHz, DMSO-d6). 6.92 (s, 2H), 6.76 (s, 2H), 5.01 (s, 4H), 4.32 (s, 2H), 4.31 (s, 2H), 3.92 (s, 4H), 3.44 (s, 4H), 3.01-2.99 (m, 1H), 2.30 (t, J=7.2 Hz, 2H), 1.60-1.57 (m, 2H), 1.43 (s, 18H), 1.35 (m, 18H). 1.30-1.12 (m, 4H); MS (ESI), 439.4 (M/2+H)+.

reactant | 6-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)hexanoic acid | 0.173 mmol, 190 mg | C(C)(C)(C)OC(CN(C(CN1C(=NC=C1)CN(CCCCCC(=O)O)CC=1N(C=CN1)CC(N(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)=O)CC(OC(C)(C)C)=O)=O | C42H67N7O12
reactant | piperidine | 0.50 mL | N1CCCCC1 | C5H11N
solvent | DMF | 0.50 mL | CN(C)C=O | C3H7NO
product | (S)-2-amino-6-(bis((1-(2-(bis(2-tert-butoxy-2-oxoethyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)hexanoic acid | 0.120 g, 79% | N[C@H](C(=O)O)CCCCN(CC=1N(C=CN1)CC(N(CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)=O)CC=1N(C=CN1)CC(=O)N(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C | C42H68N8O12
